US07435837B2
(±)-{[7-(2-chlorophenyl)-5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.060 g, 28%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2-chlorophenyl) 5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.22 g, 0.50 mmol) and methylamine (0.155 g, 5.0 mmol). mp 194-196° C.

reactant | (±)-[7-(2-chlorophenyl) 5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.50 mmol, 0.22 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)Cl)C | C23H21ClO4S
reactant | methylamine | 5.0 mmol, 0.155 g | CN | CH5N
product | (±)-{[7-(2-chlorophenyl)-5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | ClC1=C(C=CC=C1)C1=CC(=CC=2CC(OC21)CNC)C | C17H18ClNO
